US05654326
By the procedure in Example 1, Part A, 13.7 g (0.1 mole) of 4-methoxy-2-methylaniline was reacted with 25 g (0.1145 mol) of di-tert-butyl dicarbonate to give 17.25 g (73% yield) of N-tert-butoxycarbonyl-4-methoxy-2-methylaniline melting at 80°-82° C., after crystallizing from hexane.

reactant | 4-methoxy-2-methylaniline | 0.1 mole, 13.7 g | COC1=CC(=C(N)C=C1)C | C8H11NO
reactant | di-tert-butyl dicarbonate | 0.1145 mol, 25 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
product | N-tert-butoxycarbonyl-4-methoxy-2-methylaniline | 17.25 g, 73% yield | C(C)(C)(C)OC(=O)NC1=C(C=C(C=C1)OC)C | C13H19NO3
